US09169259B2
A mixture of methyl 4-(8-bromoimidazo[1,2-b]pyridazin-6-yl)benzoate (208 mg, 0.63 mmol), 6-(2-methylpyrrolidin-1-yl)pyridin-2-amine (168 mg, 0.95 mmol), Pd2(dba)3 (37 mg, 0.063 mmol), BINAP (157 mg, 0.252 mmol), Cs2CO3 (616 mg, 1.89 mmol) and dioxane (10 mL) was heated to 100° C. with stirring for 16 h under N2. The solvent was removed in vacuo and the resulting mixture was purified by chromatography (silica gel, 200-300 mesh, CH2Cl2:MeOH=30:1) to give methyl 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo [1,2-b]pyridazin-6-yl)benzoate (120 mg, 45%) as a yellow solid. 1H NMR (300 MHz, CD3OD): δ 8.81 (s, 1H), 8.09-7.98 (m, 5H), 7.59 (d, 1H, J=1.5 Hz), 7.42 (t, 1H, J=8.4 Hz), 6.27 (d, 1H, J=7.5 Hz), 6.08 (d, 1H, J=8.1 Hz), 4.29-4.21 (m, 1H), 3.96 (s, 3H), 3.62-3.58 (m, 1H), 3.43-3.40 (m, 1H), 2.16-2.12 (m, 3H), 1.78-75 (m, 1H), 1.19 (d, 3H, J=6.3 Hz). LC-MS: [M+H]+, 429, tR=1.989 min, HPLC: 94.6% at 214 nm, 96.8% at 254 nm, tR=5.255 min.

reactant | methyl 4-(8-bromoimidazo[1,2-b]pyridazin-6-yl)benzoate | 0.63 mmol, 208 mg | BrC=1C=2N(N=C(C1)C1=CC=C(C(=O)OC)C=C1)C=CN2 | C14H10BrN3O2
reactant | 6-(2-methylpyrrolidin-1-yl)pyridin-2-amine | 0.95 mmol, 168 mg | CC1N(CCC1)C1=CC=CC(=N1)N | C10H15N3
reactant | BINAP | 0.252 mmol, 157 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 1.89 mmol, 616 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.063 mmol, 37 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | methyl 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo [1,2-b]pyridazin-6-yl)benzoate | 120 mg, 45% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC=C(C(=O)OC)C=C1)C=CN2 | C24H24N6O2
